US04994569
(E)-N-Cinnamyl-2-naphthalenecarboxamide may be obtained in the following manner: working in a manner similar to that described in Example 21 for the preparation of (E)-3-chloro-N-cinnamylbenzamide, starting with cinnamylamine (5.3 g) and 2-naphthoic acid (7.6 g), and after recrystallization in ethyl acetate, (E)-N-cinnamyl-2-naphthalenecarboxamide (4.3 g) is obtained.

reactant | (E)-3-chloro-N-cinnamylbenzamide | ClC=1C=C(C(=O)NC\C=C\C2=CC=CC=C2)C=CC1 | C16H14ClNO
reactant | cinnamylamine | 5.3 g | C(C=CC1=CC=CC=C1)N | C9H11N
reactant | 2-naphthoic acid | 7.6 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
product | (E)-N-cinnamyl-2-naphthalenecarboxamide | 4.3 g | C(\C=C\C1=CC=CC=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C20H17NO
